US07262212B2
m-Chloroperbenzoic acid (13.76 g, 55.81 mmol) was added to a solution of 1-(2-methyl-2-propenyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one (7.09 g, 34.88 mmol) in methylene chloride (150 ml), and the mixture was stirred at room temperature for 24 hours. To the mixture, sodium thiosulfate aqueous solution and sodium hydrogencarbonate aqueous solution were added, and the resulting mixture was filtered. The organic layer was separated, washed with sodium hydrogencarbonate aqueous solution, dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to afford 1-(2-methyl-2-oxiranylmethyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one (5.13 g, 67%) as a pale yellow oil.

reactant | m-Chloroperbenzoic acid | 55.81 mmol, 13.76 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-(2-methyl-2-propenyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 34.88 mmol, 7.09 g | CC(CN1C(OCC2=C1C=CC=C2)=O)=C | C12H13NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-methyl-2-oxiranylmethyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 5.13 g, 67% | CC1(OC1)CN1C(OCC2=C1C=CC=C2)=O | C12H13NO3
